US08071588B2
A mixture of 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (0.6 g, 1.541 mmol), 1-[3-bromo-4-(methyloxy)phenyl]methanamine (0.389 g, 1.8 mmol), HATU (0.760 g, 2.0 mmol), and triethylamine (0.599 ml, 4.3 mmol) in dichloromethane (40 mL) was stirred overnight at room temperature to give a pale yellow solution. The reaction mixture was diluted with DCM, washed with saturated NaHCO3 and then saturated NaCl. The organic layer was dried over Na2SO4, evaporated to dryness which gave viscous syrup. The viscous syrup was chromatographed on an 80 g Combi-Flash Column in silica with DCM-MeOH (0-8%). The product from this purification was placed on a Chromatotron Plate (2000μ) silica eluting with DCM-MeOH (3.5%) to give N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide (800 mg, 88%). LC-MS m/z 587.3 (M+H)+, 0.83 min (ret time).

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 1.541 mmol, 0.6 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | 1-[3-bromo-4-(methyloxy)phenyl]methanamine | 1.8 mmol, 0.389 g | BrC=1C=C(C=CC1OC)CN | C8H10BrNO
reactant | HATU | 2.0 mmol, 0.760 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 4.3 mmol, 0.599 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-{[3-bromo-4-(methyloxy)phenyl]methyl}-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}propanediamide | 800 mg, 88% | BrC=1C=C(C=CC1OC)CNC(CC(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2)=O | C27H35BrN6O4
